US07964749B2
In a manner similar to Example 5 and starting from 15 g (62 mmol) of N-(4-chlorobenzyl)-L-Valine, 12 mL (99 mmol) of valeryl chloride and 7.7 g (93 mmol) of 2-methylimidazole, 15.7 g (77%) of N-(4-chlorobenzyl)-N-valeryl-L-Valine is obtained. The solid is recrystallised from a mixture of EtOH:H2O 1:1.

reactant | N-(4-chlorobenzyl)-L-Valine | 62 mmol, 15 g | ClC1=CC=C(CN[C@@H](C(C)C)C(=O)O)C=C1 | C12H16ClNO2
reactant | valeryl chloride | 99 mmol, 12 mL | C(CCCC)(=O)Cl | C5H9ClO
reactant | 2-methylimidazole | 93 mmol, 7.7 g | CC=1NC=CN1 | C4H6N2
product | N-(4-chlorobenzyl)-N-valeryl-L-Valine | 15.7 g, 77% | ClC1=CC=C(CN([C@@H](C(C)C)C(=O)O)C(CCCC)=O)C=C1 | C17H24ClNO3
